US05055592
A solution of (3R,4R)l,l-dibromo-3-tetrahydro-pyranyloxy-4-methoxy-4-methyl-l-octene (240 mg; 0.58 mmol) in THF (2 ml) is added dropwise to a refluxing mixture of activated magnesium turnings (activated with I2, 183 mg, 0.75 mmol) in THF (1 ml). The mixture is refluxed for 1 h, hexane (5 ml) is added and the suspension is filtered through a short path of silica gel. The filter cake is washed with ether and the solvent is removed in vacuo. The alkyne (3R,4R)3-tetrahydropyranyloxy-4-methoxy-4-methyl-l-octyne is purified by column chromatography on silica gel, eluting with 5% EtOAc in petroleum ether, to afford (3R,4R)3-tetrahydropyranyloxy-4-methoxy-4-methyl-l-octyne.

reactant | (3R,4R)l,l-dibromo-3-tetrahydro-pyranyloxy-4-methoxy-4-methyl-l-octene | 0.58 mmol, 240 mg | BrC(=C[C@H]([C@](CCCC)(C)OC)OC1OCCCC1)Br | C15H26Br2O3
reactant | magnesium | 0.75 mmol, 183 mg | [Mg] | Mg
reactant | hexane | 5 ml | CCCCCC | C6H14
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | (3R,4R)3-tetrahydropyranyloxy-4-methoxy-4-methyl-l-octyne | O1C(CCCC1)O[C@H](C#C)[C@](CCCC)(C)OC | C15H26O3
